US07863314B2
A. 3-[5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-pyrazole-4-carbonyl]-benzoic acid
To a stirred solution of 3-[5-amino-4-(3-formylbenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide (900 mg) in CH3CN (25 mL) were added NaH2PO4 (55 mg in 2 mL water) and H2O2 (1.3g, 30% solution in water) followed by the dropwise addition of an aqueous solution of NaClO2 (365 mg) at 10° C. The mixture was stirred at this temperature for 4h before Na2SO3 was added. Solvent was removed and residue was dissolved in EtOAc, the organic layer was washed with water and brine and concentrated. The crude product was purified by column chromatography on silica gel eluted with EtOAc followed by EtOAC: AcOH=100 :1), to provide the desired intermediate as a beige foam (345 mg, 37%).

reactant | 3-[5-amino-4-(3-formylbenzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 900 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)C=O)=O | C22H20N4O3
reactant | H2O2 | 1.3g | OO | H2O2
reactant | NaClO2 | 365 mg | [O-]Cl=O.[Na+]
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 3-[5-Amino-1-(5-cyclopropylcarbamoyl-2-methyl-phenyl)-1H-pyrazole-4-carbonyl]-benzoic acid | 345 mg, 37% | NC1=C(C=NN1C1=C(C=CC(=C1)C(NC1CC1)=O)C)C(=O)C=1C=C(C(=O)O)C=CC1 | C22H20N4O4
